US07318964B2
Synthesis of 1,4-bis(3-aminophenyl)-3,6-di-hexyloxybenzen (M-16)
Into a 500 ml three-necked flask equipped with a stirrer, 1,4-bis(3-nitrophenyl)-3,6-di-hexyloxybenzene 9.0 g (17.3 mmol) and 10 wt % palladium activated carbon (Pd/C) 2 g were introduced and dissolved in 200 ml of THF, and then the resulting mixture was reacted for 24 hours at room temperature while filling hydrogen gas therein. After the reaction was completed, the reaction mixture was dried with anhydrous magnesium sulfate, and then solvent was removed to give white crystal. The crystal was dried in a vacuum oven at 40° C. to give 7.0 g of desired product (yield: 88%).

reactant | 1,4-bis(3-nitrophenyl)-3,6-di-hexyloxybenzene | 17.3 mmol, 9.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC(=C(C=C1OCCCCCC)C1=CC(=CC=C1)[N+](=O)[O-])OCCCCCC | C30H36N2O6
reactant | hydrogen | [H][H] | H2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | palladium activated carbon | 2 g | [Pd] | Pd
product | 1,4-bis(3-aminophenyl)-3,6-di-hexyloxybenzen | 7.0 g, yield: 88% | NC=1C=C(C=CC1)C1=CC(=C(C=C1OCCCCCC)C1=CC(=CC=C1)N)OCCCCCC | C30H40N2O2
